US07662830B2
3. 2,4-dichloro-6-(4-fluorophenyl)pyrimidine
Dissolve 4-fluorobromobenzene (8.75 g, 0.05 moles) in anhydrous ether (80 mL) under nitrogen atmosphere and cool to −78° C. Add dropwise 1.6 M n-BuLi (34 mL, 0.055 moles) and stir at −78° C. for 45 min. Dissolve 2,4-dichloropyrimidine (7.45 g, 0.05 moles) in Et2O (100 mL and add dropwise to the reaction mixture and warm the reaction mixture to −30° C. and stir at this temperature for 30 min followed by 0° C. for 30 min. Quench the reaction mixture with HOAc (3.15 mL, 0.055 moles) and water (0.5 mL, 0.027 moles) dissolved in THF (5.0 mL). Add dropwise a THF (40 mL) solution of DDQ (11.9 g, 0.053 moles) to the reaction mixture. Bring the reaction mixture to room temperature and stir at room temperature for 30 min. Cool the reaction mixture to 0° C. and add 3.0 N aq. NaOH (35 mL) and stir for 30 min. Decant the organic layer from the reaction mixture and wash the brown solid with Et2O (3×100 mL). Combine the organic layers, wash several times with saturated NaCl solution and dry with MgSO4. Filter and evaporate under vacuum to afford brown colored solid. Purify the crude by flash column chromatography using 5% EtOAc/hexane to afford the title product as white solid.

reactant | 4-fluorobromobenzene | 0.05 moles, 8.75 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | n-BuLi | 0.055 moles, 1.6 M, 34 mL | [Li]CCCC
reactant | 2,4-dichloropyrimidine | 0.05 moles, 7.45 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | HOAc | 0.055 moles, 3.15 mL | CC(=O)O | C2H4O2
reactant | water | 0.027 moles, 0.5 mL | O | H2O
reactant | DDQ | 0.053 moles, 11.9 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | NaOH | 3.0 N, 35 mL | [OH-].[Na+]
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2,4-dichloro-6-(4-fluorophenyl)pyrimidine | ClC1=NC(=CC(=N1)Cl)C1=CC=C(C=C1)F | C10H5Cl2FN2
